US08053438B2
Example 4: [4-(3-CHLORO-PYRAZIN-2-YLOXY)-PHENYL]-(6-FLUORO-1H-BENZOIMIDAZOL-2-YL)-METHANONE
A solution of 4-(3-Chloro-pyrazin-2-yloxy)-benzoic acid ethyl ester (20 g, 84.7 mmol) and 6-fluoro benzoimidazole-1-carboxylic acid tert-butyl ester (21.2 g, 76.3 mmol) in freshly dried THF (150 mL) was cooled to −78° C. LiHMDS (106 mL, 106 mmol) was added slowly to it over 1.2 h. The reaction mixture was stirred at the same temperature for 3.5 h. The reaction was brought to −20° C. and slowly quenched with addition of 2N HCl until pH 3-4. The resulting mixture was stirred at RT for 1 h, extracted with ethyl acetate (3×200 mL), and washed with water (2×100 mL). The organic layer was dried (Na2SO4) and concentrated. To the crude product was added methanol (70 mL). After stirring for 1 h, the solid was collected by filtration to give the title compound. MS (ESI, pos. ion) m/z: 369.2 (M+1). IC50 (uM) +.

reactant | 4-(3-Chloro-pyrazin-2-yloxy)-benzoic acid ethyl ester | 84.7 mmol, 20 g | C(C)OC(C1=CC=C(C=C1)OC1=NC=CN=C1Cl)=O | C13H11ClN2O3
reactant | 6-fluoro benzoimidazole-1-carboxylic acid tert-butyl ester | 76.3 mmol, 21.2 g | C(C)(C)(C)OC(=O)N1C=NC2=C1C=C(C=C2)F | C12H13FN2O2
reactant | LiHMDS | 106 mmol, 106 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | [4-(3-CHLORO-PYRAZIN-2-YLOXY)-PHENYL]-(6-FLUORO-1H-BENZOIMIDAZOL-2-YL)-METHANONE | ClC=1C(=NC=CN1)OC1=CC=C(C=C1)C(=O)C1=NC2=C(N1)C=C(C=C2)F | C18H10ClFN4O2
